US07153863B2
To a solution of concentrated sulfuric acid (9 mL, 169 mmol) in ethanol (25 mL) was added 10% palladium on carbon (200 mg) and a solution of {3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}(phenyl)methanol (350 mg, 0.908 mmol) in ethanol (5 mL). The reaction mixture was stirred under 55 PSI of hydrogen for 3 days. The reaction mixture was filtered through a pad of celite. Saturated aqueous sodium bicarbonate solution was added to the filtrate until basic. The resulting mixture was concentrated on rotovap to remove the excess ethanol, then extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (29:1 dichloromethane:methanol) provided 4-(2-benzylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine (221 mg, 66%) as an off-white solid. 1H NMR (CDCl3) δ 8.45 (d, 1H), 8.25 (d, 1H), 8.19 (d, 1H), 7.30–7.13 (m, 6H), 6.82 (m, 1H), 6.63 (d, 1H), 5.12 (d, 1H), 4.52 (s, 2H), 4.35 (m, 1H), 2.03 (m, 2H), 1.78–1.50 (m, 6H); MS m/z 370 (M+1).

reactant | sulfuric acid | 169 mmol, 9 mL | S(O)(O)(=O)=O | H2O4S
reactant | {3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}(phenyl)methanol | 0.908 mmol, 350 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C(O)C2=CC=CC=C2 | C23H23N5O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(2-benzylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine | 221 mg, 66% | C(C1=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1CCCC1 | C23H23N5
